US07419997B2
N-(2,3,4,9-Tetrahydro-1H-carbazol-1-yl)benzamide was prepared from 2,3,4,9-tetrahydro-1H-carbazol-1-amine hydrochloride and benzoyl chloride in a similar manner as described above to give a pale yellow solid (73% yield). 1H-NMR (CDCl3): δ 8.79 (s, 1H), 7.81-7.75 (m, 2H), 7.54-7.48 (m, 2H), 7.47-7.40 (m, 2H), 7.32 (d, 1H), 7.17 (m, 1H), 7.09 (d, 1H), 6.42 (d, 1H), 5.37 (m, 1H), 2.78 (m, 2H), 2.32 (m, 1H), 2.03-1.91 (m, 3H); MS m/z 289 (M−1).

reactant | 2,3,4,9-tetrahydro-1H-carbazol-1-amine hydrochloride | Cl.C1(CCCC=2C3=CC=CC=C3NC12)N
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N-(2,3,4,9-Tetrahydro-1H-carbazol-1-yl)benzamide | C1(CCCC=2C3=CC=CC=C3NC12)NC(C1=CC=CC=C1)=O | C19H18N2O
